US06281227B1
C. [1-(1-Phenoxyisoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-carbamic acid benzyl ester
The title compound is prepared as described in Example 1, Part H using 7-bromomethyl-1-phenoxyisoquinoline and [2-oxopyrrolidin-3-(S)-yl]carbamic acid benzyl ester as the starting materials. The crude product is purified by column chromatography eluting with 70% EtOAc/hexanes to afford the title product as a clear oil.

reactant | 7-bromomethyl-1-phenoxyisoquinoline | BrCC1=CC=C2C=CN=C(C2=C1)OC1=CC=CC=C1 | C16H12BrNO
reactant | [2-oxopyrrolidin-3-(S)-yl]carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H]1C(NCC1)=O)=O | C12H14N2O3
product | [1-(1-Phenoxyisoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H]1C(N(CC1)CC1=CC=C2C=CN=C(C2=C1)OC1=CC=CC=C1)=O)=O | C28H25N3O4
